US06049009
Preparation of (E)-4-(2-naphthylthio)-3-buten-2-one
To a solution of (E)-4-methoxy-3-buten-2-one (purity: 90%, 15.0 ml, 0.13 mol) and 2-naphthalenethiol (21.16 g, 0.13 mol) in benzene (180 ml) was added p-toluene sulfonic acid-monohydrate (75 mg, 0.4 mmol), followed by heating, while stirring, on an oil bath at 50° C. for 70 minutes. After ice cooling, an aqueous saturated sodium hydrogen carbonate solution was added thereto, followed by extracting with ethyl acetate four times. The ethyl acetate layer was washed with an aqueous saturated sodium hydrogen carbonate solution and saturated brine twice and then dried with anhydrous magnesium sulfate. After concentrating under a reduced pressure, the residue was treated with the column chromatography (670 g, n-hexane:methylene chloride:ethyl acetate=1:0:0-1:3:0-2:0:1), followed by recrystallizing from n-hexane-ethyl ether to thereby obtain the titled compound as a light brown crystalline.

reactant | (E)-4-methoxy-3-buten-2-one | 0.13 mol, 15.0 ml | CO/C=C/C(C)=O | C5H8O2
reactant | 2-naphthalenethiol | 0.13 mol, 21.16 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | p-toluene sulfonic acid-monohydrate | 0.4 mmol, 75 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 180 ml | C1=CC=CC=C1 | C6H6
product | (E)-4-(2-naphthylthio)-3-buten-2-one | yield 16.7% | C1=C(C=CC2=CC=CC=C12)S/C=C/C(C)=O | C14H12OS
